US04282251
(b) β-(N-methyl-(1-naphthylmethyl)amino]ethyl-(4-tolyl)ketone
17.1 g of methyl-(1-naphthylmethyl)amine are dissolved in 200 ml of methanol and 10 ml of concentrated hydrochloric acid, 13.4 g of 4-tolylmethylketone and 100 ml of 35% formaldehyde solution are sequentially added. The mixture is refluxed for 11/2 hours, with stirring, cooled, diluted with 1 liter of water, made alkaline with 30% sodium hydroxide solution and exhaustively extracted with chloroform. The organic extract is dried and evaporated to dryness and the oily residue is dissolved in petroleum ether and allowed to crystallise in the cold, to obtain the heading compound, m.p. 92°-95°.

reactant | methyl-(1-naphthylmethyl)amine | 17.1 g | CNCC1=CC=CC2=CC=CC=C12 | C12H13N
reactant | 4-tolylmethylketone | 13.4 g | C1(=CC=C(C=C1)C(=O)C)C | C9H10O
reactant | formaldehyde | 100 ml | C=O | CH2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
solvent | hydrochloric acid | 10 ml | Cl | ClH
solvent | water | 1 liter | O | H2O
product | β-(N-methyl-(1-naphthylmethyl)amino]ethyl-(4-tolyl)ketone | CN(CCC(=O)C1=CC=C(C=C1)C)CC1=CC=CC2=CC=CC=C12 | C22H23NO
